Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 Intractable pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of COPD, Metastatic Lung Cancer (significant bony
disease, now transitioning off of treatment), Acute on chronic
malignant back pain, PE/DVT, who presented from clinic with
intractable back pain for pain control

As per review of outpatient notes, patient has been struggling
with pain control and was recently discharged on MS contin 60mg
TID with Oxycodone 30mg q3h. In the days since, he called in 
with
worsening pain, likely ___ widespread bony metastases seen on 
MRI
Spine from early ___. Dr ___ admission but 
patient
declined so increased PO oxycodone to 60mg as needed. In clinic
this afternoon patient was in intractable pain so Dr ___ admission and patient was in agreement. As per Dr
___ will not be offered further chemotherapy, 
and
should transition to hospice if in agreement, with radiation to
spine for palliation of symptoms. Radiation oncology evaluated
patient and are to start radiation tomorrow

Pt reports that since last discharge he has had left leg pain
which is posterior and then travels across his lower back,
occasionally with right posterior leg pain as well. He noted 
that
it comes and goes without clear provoking factors, possibly
movement makes it worse. He noted that when he was discharged 
the
30mg oxycodone was insufficient, but that 60mg oxycodone worked
for a short period of time until today. He noted that intensity
continues to escalate and today was ___ or more. He noted that
the location/sharp quality of pain and associated right lower
extremity weakness is unchanged. He stated that 2mg of IV
dilaudid in clinic did not help but 4mg IV dilaudid immediately
resolved his pain, and is now ___.

He noted that given his overall worsening function, and fact 
that
further chemotherapy will not be offered, noted that he would 
not
want extremely aggressive measures pursued such as surgery. He
stated that he does not want to increase his steroid dose as it
caused significant thrush in the past. He noted that his goal
would be to have better symptom control with radiation and
augmented pain regimen so that he could return home. He noted
that he would be open to considering hospice but would like to
talk to his wife first. 
 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
As per last note by Dr ___:
"- ___: developed fatigue and headaches which gradually 
became
 worse. Also had occasional confusion
- ___: presented to OSH where head CT showed multiple 
brain
masses and he was transferred to ___. He was seen by
neurosurgery and there was no role for surgical intervention.
- ___: underwent biopsy of right sided lung nodule by ___.
 Path showed adenocarcinoma  
- ___: WBRT
- ___: ___ C1D1 
- ___: ___ C2D1
- ___: Treatment held due to ___ esophagitis and patient
admitted to hospital for poor PO intake. 
- ___: ___ C3D1
- ___: ___ C4D1
- ___: pemetrexed maintenance C1
- ___: pemetrexed maintenance C2
- ___: CT torso with stable disease; pemetrexed maintenance
C3
- ___: hold treatment given fatigue thought related to
chemotherapy
-___: Pt admitted with chest and skeletal disease 
progression,
pain, new PE and LLE DVT" 
 
PAST MEDICAL HISTORY: 
- Lung cancer, as above
- COPD
- HLD 
- Hernia s/p right sided hernia repair x 2 
- Myofascial pain syndrome with shoulder and back pain, seen in
pain clinic  
- Neck injury with L hand numbness after a fall down a flight of
stairs in ___
- s/p C3-5 cervical spine fusion in ___ at ___ 
- PE and LLE DVT: diagnosed ___, on therapeutic
anticoagulation 
 
Social History:
___
Family History:
Father passed away of lung cancer at age ___.
Mother is in her ___ in good health. Grandmother had "bone"
cancer and passed away in her ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=======================
Vitals: 24 HR Data (last updated ___ @ 1620)
    Temp: 97.8 (Tm 97.8), BP: 118/73, HR: 80, RR: 20, O2 sat:
98%%, O2 delivery: RA   
GENERAL: sitting in bed, occasionally tearful due to our
conversation but not pain, NAD, pleasant
EYES: PERRLA
HEENT: MMM, thrush on tongue
NECK: supple 
LUNGS:  CTA b/l, no wheezes/rales/rhonchi, normal RR, speaking 
in
full sentences
CV: RRR, normal distal perfusion without edema
ABD: Soft, NT, ND, normoactive BS, no rebound or guarding
GENITOURINARY: no foley
MSK:  ___ weakness on right leg, ___ in left leg, does not
grimace with movement, has minimal tenderness on r/l flank at
lower lumbar level but no spinal tenderness
SKIN: warm, dry, no rash  
NEURO: AOx3, fluent speech
PSYCH: Normal insight/judgment, appropriate mood
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:  

VS: 97.7 112/66 70 18 96%RA
GENERAL: Chronically-ill appearing gentleman, lying in bed in no
distress.
EYES: PERRLA
HEENT: MMM, thrush on tongue resolved
NECK: supple 
LUNGS:  CTA b/l, no wheezes/rales/rhonchi
CV: RRR, no murmurs
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
masses
GENITOURINARY: no foley
MSK:  4+/5 weakness on right leg, ___ in left leg
SKIN: warm, dry, no rash  
NEURO: AOx3, fluent speech
PSYCH: Normal insight/judgment, appropriate mood
ACCESS: PIV
 
Pertinent Results:
___ 10:58AM BLOOD WBC-11.8* RBC-4.60 Hgb-13.7 Hct-41.5 
MCV-90 MCH-29.8 MCHC-33.0 RDW-12.8 RDWSD-42.2 Plt ___
___ 06:40AM BLOOD WBC-9.9 RBC-4.52* Hgb-13.5* Hct-40.8 
MCV-90 MCH-29.9 MCHC-33.1 RDW-12.7 RDWSD-42.0 Plt ___
___ 10:58AM BLOOD UreaN-8 Creat-0.6 Na-140 K-4.2
___ 06:40AM BLOOD Glucose-117* UreaN-16 Creat-0.6 Na-141 
K-4.0 Cl-96 HCO3-30 AnGap-15
___ 10:58AM BLOOD ALT-189* AST-93* AlkPhos-260* TotBili-0.2
___ 06:24AM BLOOD ALT-113* AST-29 LD(LDH)-467* AlkPhos-283* 
TotBili-0.2
___ 07:10AM BLOOD Calcium-9.9 Phos-3.5 Mg-2.0
___ 06:40AM BLOOD Calcium-10.3 Phos-3.7 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ year-old gentleman with COPD, metastatic 
NSCLC (significant bony disease, now transitioning off of 
treatment), acute on chronic malignant back pain, PE/DVT, who 
presented from clinic with intractable back pain for pain
control, now transitioned to methadone and increased frequency 
of oxycodone. 

#Acute on Chronic Malignant Back Pain
Patient with stable right leg weakness in last month but 
escalating intensity of posterior thigh and lower back pain. 
Etiology likely due to extensive metastatic lesions noted on 
recent MRI from 2 weeks ago. No cord compression was seen on 
that
MRI, and right leg weakness and hesitancy with urination is 
unchanged for 1 month without any new fecal incontinence so 
cauda equina unlikely. Moreover patient clearly states that he 
would not want any surgical intervention. He was started on 
palliative radiation therapy. With the assistance of palliative 
care patient's ms contin was transitioned to methadone, his prn 
oxycodone was increased in frequency and he was started on low 
dose gabapentin. His QTc remained under 400ms, he had mild 
confusion on the day of initiation that cleared. Dexamethasone 
was left at 2mg to avoid him from having further episodes of 
candidal stomatitis. 

#Opioid induced constipation: Patient experienced severe 
constipation which responded to polyethyleneglycol 17g bid, 
bisacodyl 10mg qod and magnesium citrate 300mL PRN. 

___ stomatitis: Did not respond to initial treatment with 
nystatin. Received fluconazole for 5 days with resolution. 

#PE/DVT: Previously on enoxaparin, at the request of  Dr. 
___ was transitioned to rivaroxaban.

#Metastatic Lung Cancer: During admission patient and family had 
meeting with Dr. ___ it was communicated that no 
other chemotherapy options were available at the time. Plan is 
to transition to hospice once he completes radiation treatmen.

TRANSITIONAL ISSUES:
=====================
#PAIN REGIMEN:
-Discharged with 3-day (48 x 30mg oxycodone tablets) supply, 
prior authorization submitted by outpatient team and pending at 
time of discharge, patient given physical prescription and list 
of pharmacies with supply
-Please uptitrate methadone as needed, continue to monitor QTc
-Uptitrated bowel regimen to miralax 17g bid, bisacodyl 10mg 
qod, responded well to magnesium citrate in house, consider 
repeating if needed
-Started on gabapentin 100mg tid, previously was somnolent with 
200mg, may consider careful uptitration
#RADIATION TREATMENTS: Arranged for radiation treatments to 
resume on ___

This patient's discharge plan took 120 minutes to formulate and 
coordinate.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 60 mg SC Q12H 
2. OxyCODONE (Immediate Release) 60 mg PO Q4H:PRN Pain - 
Moderate 
3. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
4. Dexamethasone 2 mg PO DAILY 
5. Diazepam 5 mg PO BID:PRN pain 
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. FoLIC Acid 1 mg PO DAILY 
8. LevETIRAcetam 1000 mg PO Q12H 
9. MethylPHENIDATE (Ritalin) 10 mg PO BID 
10. Mirtazapine 30 mg PO QHS 
11. Omeprazole 40 mg PO BID 
12. Senna 8.6 mg PO BID:PRN constipation  
13. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
14. Tamsulosin 0.4 mg PO QHS 
15. Vitamin D ___ UNIT PO DAILY 
16. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
17. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting   
18. Morphine SR (MS ___ 60 mg PO Q8H 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID  
2.  Bisacodyl 10 mg PO EVERY OTHER DAY 
RX *bisacodyl 5 mg 2 tablet(s) by mouth every other day Disp 
#*30 Tablet Refills:*0 
3.  Gabapentin 100 mg PO TID 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
4.  Methadone 10 mg PO QAM 
at 6 AM, do NOT change dose without talking with 
oncology/palliative care 
RX *methadone 10 mg ___ tablets by mouth three times a day 
Disp #*105 Tablet Refills:*0 
5.  Methadone 10 mg PO QNOON 
take at noon, do NOT change dose without talking with 
oncology/palliative care  
6.  Methadone 15 mg PO QPM 
take at 8pm, do NOT change dose without talking with 
oncology/palliative care  
7.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 17 gram/dose 1 capful by mouth 
twice a day Refills:*0 
8.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*30 Tablet Refills:*0
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth every night 
with dinner Disp #*30 Tablet Refills:*0 
9.  OxyCODONE (Immediate Release) 60 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 30 mg 2 tablet(s) by mouth up to every three hours 
Disp #*480 Tablet Refills:*0 
10.  OxyCODONE (Immediate Release) 60 mg PO DAILY  
11.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
12.  Dexamethasone 2 mg PO DAILY  
13.  Diazepam 5 mg PO BID:PRN pain  
14.  Docusate Sodium 100 mg PO BID:PRN constipation  
15.  FoLIC Acid 1 mg PO DAILY  
16.  LevETIRAcetam 1000 mg PO Q12H  
17.  MethylPHENIDATE (Ritalin) 10 mg PO BID  
18.  Mirtazapine 30 mg PO QHS  
19.  Omeprazole 40 mg PO BID  
20.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
21.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting    
22.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
23.  Tamsulosin 0.4 mg PO QHS  
24.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic cancer related pain
Opioid induced constipation
Metastatic non-small cell lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent. Rarely confused.
Activity Status: Ambulatory - requires cane.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with a pain crisis. With the 
help of your palliative care doctors we switched your MS ___ 
to methadone. Your pain is improved. We also switched your blood 
thinner to a pill called xarelto. You will need to finish your 
remaining radiation treatments as an outpatient. It was a 
pleasure to take care of you. 

Your ___ Team
 
Followup Instructions:
___